US09079866B2
2-Bromo-N-[(1S)-2-hydroxy-1-methylethyl]benzenesulfonamide
To a 500 mL round-bottomed flask were added a stirbar, (S)-2-aminopropan-1-ol (2.151 g, 28.65 mmol), dry DCM (100 mL), and DIPEA (14.0 mL, 81.2 mmol). The mixture was then treated with 2-bromobenzene-1-sulfonyl chloride (6.981 g, 27.32 mmol) and stirred for 66.5 hours before concentrating to dryness and subjecting the residue to FCC to give the title compound. (7.31 g, 91%).

reactant | (S)-2-aminopropan-1-ol | 28.65 mmol, 2.151 g | N[C@H](CO)C | C3H9NO
reactant | DIPEA | 81.2 mmol, 14.0 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-bromobenzene-1-sulfonyl chloride | 27.32 mmol, 6.981 g | BrC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-Bromo-N-[(1S)-2-hydroxy-1-methylethyl]benzenesulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)N[C@H](CO)C | C9H12BrNO3S
